US08957205B2
N—[N-(2-Furanylcarbonyl)-L-leucyl]-L-valinol
30 mg of 10% palladium-carbon was added to a solution of 350 mg (1 mmol) of N—[N-[(phenylmethoxy)carbonyl]-L-leucyl]-L-valinol obtained in Reference example 178 in 10 ml of methanol, and the mixture was stirred under a hydrogen atmosphere at room temperature overnight. After the reaction solution was filtered, the filtrate was concentrated under reduced pressure. 10 ml of ethyl acetate, 10 ml of water and further 159 mg (1.5 mmol) of sodium carbonate were added to the residue. A solution of 131 mg (1 mmol) of 2-furancarbonyl chloride in 3 ml of ethyl acetate was added to the mixture solution under ice-cooling. The reaction solution was returned to room temperature and stirred overnight. The aqueous layer of reaction solution was separately collected and extracted with ethyl acetate. The organic layer was combined and after it was washed with 10% potassium hydrogensulfate, and then saturated brine, it was dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, ether was added to the residue, and the crystal was washed to obtain 268 mg (86%) of the title compound.

reactant | N—[N-[(phenylmethoxy)carbonyl]-L-leucyl]-L-valinol | 1 mmol, 350 mg | C1(=CC=CC=C1)COC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)CO | C19H30N2O4
reactant | water | 10 ml | O | H2O
reactant | sodium carbonate | 1.5 mmol, 159 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-furancarbonyl chloride | 1 mmol, 131 mg | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 30 mg | [C].[Pd]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N—[N-(2-Furanylcarbonyl)-L-leucyl]-L-valinol | 268 mg, 86% | O1C(=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)CO | C16H26N2O4
